### PR TITLE
[Merged by Bors] - chore(CategoryTheory/MorphismProperty/IsInvertedBy): simplify proof of isoClosure_iff

### PR DESCRIPTION
**Pull request by dwrensha**
* `have : f = e.inv.left ≫ f' ≫ e.hom.right` can be directly proved via [`Arrow.iso_w'`](https://github.com/leanprover-community/mathlib4/blob/ebd71de74db22aaa0abbfab6799a22bcecda3476/Mathlib/CategoryTheory/Comma/Arrow.lean#L156). This removes an `erw`.
* Once the `have` is shortened like that, we might as well inline it at its usage in the subsequent `simp`.

This change was suggested by [tryAtEachStep](https://github.com/dwrensha/tryAtEachStep).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/MorphismProperty/IsInvertedBy.lean [hunk 1]
```diff
@@ -126,10 +126,7 @@ lemma IsInvertedBy.isoClosure_iff (W : MorphismProperty C) (F : C ⥤ D) :
   · intro h X Y f hf
     exact h _ (W.le_isoClosure _ hf)
   · intro h X Y f ⟨X', Y', f', hf', ⟨e⟩⟩
-    have : f = e.inv.left ≫ f' ≫ e.hom.right := by
-      erw [← e.hom.w, ← Arrow.comp_left_assoc, e.inv_hom_id, Category.id_comp]
-      rfl
-    simp only [this, F.map_comp]
+    simp only [Arrow.iso_w' e, F.map_comp]
```
Comment (dwrensha) [inline Mathlib/CategoryTheory/MorphismProperty/IsInvertedBy.lean:129]: `e` here has type `Arrow.mk f' ≅ Arrow.mk f`.
`Arrow.iso_w' e` has type `f = e.inv.left ≫ f' ≫ e.hom.right`.

**Comment by joelriou** [comment]
Thanks!

bors merge
